US09303012B2
b) (R)-5,5-Dimethylthiazolidine-4-carboxamide hydrochloride
In analogy to the procedure described in Example 82 a), (R)-tert-butyl 4-carbamoyl-5,5-dimethylthiazolidine-3-carboxylate was treated with a 4 M solution of HCl in dioxane to give the title compound as yellow solid which was sufficiently pure to be used in the next step; MS (EI): m/e=161.2 [(M-Cl)H+].

reactant | (R)-tert-butyl 4-carbamoyl-5,5-dimethylthiazolidine-3-carboxylate | C(N)(=O)[C@H]1N(CSC1(C)C)C(=O)OC(C)(C)C | C11H20N2O3S
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-5,5-Dimethylthiazolidine-4-carboxamide hydrochloride | Cl.CC1([C@H](NCS1)C(=O)N)C | InChI=1S/C6H12N2OS.ClH/c1-6(2)4(5(7)9)8-3-10-6;/h4,8H,3H2,1-2H3,(H2,7,9);1H/t4-;/m1./s1
